US07173036B2
Preparation of 4-(Thiophene-2-carbonyl-piperazine-1-carboxylic acid tert-butyl ester (Compound 595-03)
2-Thiophenecarbonylchloride (2.04 g, 1.49 mL) was added to a solution of tert-butyl-1-piperazinecarboxylate (2.5 g, 13.4 mmol) and DMAP (20 mg) in pyridine (15 mL) at 0° C. under N2 atmosphere and stirred at room temperature for overnight. The mixture was poured into ice water, the precipitate was filtered, washed several times with water, and dried to yield white solids (3.5 g, 88%). M.P. 76° C. 1H NMR (DMSO-d6): δ 1.42 (s, 12H), 3.40 (m, 4H), 3.61 (m, 4H), 7.12 (m, 1H), 7.43 (d, J=4.1 Hz, 1H), 7.77 (d, J=4.8 Hz, 1H). EIMS m/z 297 (M+1), 319 (M+23). Anal. (C14H20N2O3S) C, H, N.

reactant | 2-Thiophenecarbonylchloride | 1.49 mL, 2.04 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | tert-butyl-1-piperazinecarboxylate | 13.4 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | Thiophene-2-carbonyl-piperazine-1-carboxylic acid tert-butyl ester | 3.5 g, 88% | C(C)(C)(C)OC(=O)N1C(CNCC1)C(=O)C=1SC=CC1 | C14H20N2O3S
